US07915281B2
A mixture of 4-chloro-1-{2-[3-(4-fluorophenyl)isoxazol-5-yl]ethyl}-2-propyl-1H-imidazo[4,5-c]quinoline (1.22 g, 2.81 mmol) and 7 N ammonia in methanol (100 mL) was sealed in a pressure vessel and heated at 150° C. for 12 hours and allowed to cool to room temperature. The volatiles were removed under reduced pressure, and the crude product was purified by column chromatography on silica gel (eluting with 10% to 15% CMA in chloroform). The product was then triturated sequentially with toluene and hexane/diethyl ether to provide 0.312 g of 1-{2-[3-(4-fluorophenyl)isoxazol-5-yl]ethyl}-2-propyl-1H-imidazo[4,5-c]quinolin-4-amine as a white powder, mp 208.0-209.0° C.

reactant | 4-chloro-1-{2-[3-(4-fluorophenyl)isoxazol-5-yl]ethyl}-2-propyl-1H-imidazo[4,5-c]quinoline | 2.81 mmol, 1.22 g | ClC1=NC=2C=CC=CC2C2=C1N=C(N2CCC2=CC(=NO2)C2=CC=C(C=C2)F)CCC | C24H20ClFN4O
reactant | ammonia | 7 N | N | H3N
solvent | methanol | 100 mL | CO | CH4O
product | 1-{2-[3-(4-fluorophenyl)isoxazol-5-yl]ethyl}-2-propyl-1H-imidazo[4,5-c]quinolin-4-amine | 0.312 g | FC1=CC=C(C=C1)C1=NOC(=C1)CCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCC | C24H22FN5O
